Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.36182975756
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.70281983346
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7](=[O:8])([H:9])[H:10],1.4586169638600002
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.824410905430001
[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-6.09715683174
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11],-4.33991710105
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.09879391435
[C:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.91267776256
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.89946932021
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11],0.7397524887100001
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.1881294811400003
[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.6259445580900005
[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-0.96345384578
[H:1][C:2]1[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],0.0755726097203999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.77121031124
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[O:3]=[C:4][O:5][H:6]>>[C:1]=[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.41934829398
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.14790632956
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],1.92339433589
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.34751655895
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-3.23488955141
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.6573791141499998
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.93537436285
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-6.60538544859
[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.96364863543
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],2.05932228753
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.01187423246
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.4654215060100002
